US05834506
2-(5-tert-Butyl-4-mercapto-2-methyl-phenoxy)-ethanol
To a round bottom flask equipped with a magnetic stirrer and addition funnel were added 1.50 g (39.5 mmol) of lithium aluminum hydride and freshly distilled THF (40 mL). This slurry was cooled to 0° C. and treated dropwise with a solution of (5-tert-butyl-2-methyl-4-thiocyanato-phenoxy) acetic acid methyl ester (prepared in Example KKK; 4.48 g, 15.3 mmol) dissolved in freshly distilled THF (40 mL). The reaction was worked up by diluting the slurry with EtOAc and slowly adding H2O until hydrogen gas evolution had ceased. The solution was neutralized with 1N HCl and extracted with EtOAc. The organic layers were combined, dried (MgSO4) and concentrated. The residue was dried under high vacuum and carried on crude to the next step (see Example MMM).

reactant | lithium aluminum hydride | 39.5 mmol, 1.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (5-tert-butyl-2-methyl-4-thiocyanato-phenoxy) acetic acid methyl ester | 15.3 mmol, 4.48 g | COC(COC1=C(C=C(C(=C1)C(C)(C)C)SC#N)C)=O | C15H19NO3S
reactant | HCl | 1N | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
solvent | hydrogen | [H][H] | H2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-(5-tert-Butyl-4-mercapto-2-methyl-phenoxy)-ethanol | C(C)(C)(C)C=1C(=CC(=C(OCCO)C1)C)S | C13H20O2S
